US03997535
a. 4-Allyl-3,4-dihydro-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester
3,4-Dihydro-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester (5 g), allyl bromide (2.8 g) and anhydrous potassium carbonate (15 g) in butanone (100 ml) were stirred and heated under reflux for 3 hours and cooled. The solid was filtered off and the filtrate was evaporated. The residue was crystallised from cyclohexane to give a yellow solid, which had m.p. 77°-79° (56%).

reactant | 3,4-Dihydro-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester | 5 g | O=C1C(=NC2=CC=CC=C2N1)C(=O)OCC | C11H10N2O3
reactant | allyl bromide | 2.8 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 100 ml | CC(CC)=O | C4H8O
product | 4-Allyl-3,4-dihydro-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester | C(C=C)N1C(C(=NC2=CC=CC=C12)C(=O)OCC)=O | C14H14N2O3
